* =========================================================================
* SPICE Subcircuit: MC1496 Balanced Modulator
* Author: Rodrigo Rea
* Date: 13th October 2023
* Version: 1.0
* Description: This is a SPICE subcircuit for the MC1496 Balanced Modulator.
*              It incorporates the essential building blocks including the 
*              tail current source, input transistors, and LO quad switching
*              transistors among others.
      * References: MC1496 Datasheet - ON Semiconductor - October, 2006
* =========================================================================

.include 2n3904.model

.subckt MC1496 1 2 3 4 5 6 8 10 12 14

* === Tail Current Source ===
Q1 6  8  20 q2n3904
Q2 12 10 20 q2n3904

* === Input Transistors ===
Q3 6  10 21 q2n3904
Q4 12 8  21 q2n3904

* === LO Quad Switching Transistors ===
Q5 20 4  3 q2n3904
Q6 21 1  2 q2n3904
Q7 3  5  22 q2n3904
Q8 2  5  23 q2n3904

* === Emitter Degeneration Resistors ===
RE1 22 14 500
RE2 23 14 500

* === Current Mirror ===
Q9 30 5 24 q2n3904
Rd 24 14 500 

.ends

